US04194008
N-(2,6-Di-sec.-butyl-phenyl)-N'-tert.-butyl-thiourea
20.6 g of 2,6-di-sec.-butyl-phenyl isothiocyanate are dissolved in 20.0 g of tert.-butylamine and the batch is kept for 12 hours at 20° C. It is then poured into dilute hydrochloric acid and the reaction product is filtered off, washed until neutral and dried.

reactant | 2,6-di-sec.-butyl-phenyl isothiocyanate | 20.6 g | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)N=C=S | C15H21NS
reactant | hydrochloric acid | Cl | ClH
reactant | tert.-butylamine | 20.0 g | C(C)(C)(C)N | C4H11N
product | N-(2,6-Di-sec.-butyl-phenyl)-N'-tert.-butyl-thiourea | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)NC(=S)NC(C)(C)C | C19H32N2S
